US07855227B2
Step B 2-[[2-(3-Benzyloxy-phenyl)-ethyl]-(cyclopropylmethyl)amino]-N-methyl-acetamide hydrochloride
A mixture of 0.24 g (0.85 mmol) of [2-(3-benzyloxy-phenyl)-ethyl]-(cyclopropylmethyl)amine, 0.14 ml (1.00 mmol) of triethylamine, 0.11 g (1.02 mmol) of 2-chloro-N-methyl-acetamide in 3 ml of dimethylformamide was heated with microwaves to 120° C. for 2 hours. The solvent was removed and the crude residue was purified by flash chromatography (dichloromethane/methanol/NH3 100:0:0→95:5:0.5 gradient). The product obtained was dissolved in anhydrous hydrochloric acid in ethyl acetate, the solvent was removed under vacuum and the residue was triturated with diethyl ether. 0.24 g (80% yield) of the title compound was isolated as a yellow solid.

reactant | [2-(3-benzyloxy-phenyl)-ethyl]-(cyclopropylmethyl)amine | 0.85 mmol, 0.24 g | C(C1=CC=CC=C1)OC=1C=C(C=CC1)CCNCC1CC1 | C19H23NO
reactant | triethylamine | 1.00 mmol, 0.14 ml | C(C)N(CC)CC | C6H15N
reactant | 2-chloro-N-methyl-acetamide | 1.02 mmol, 0.11 g | ClCC(=O)NC | C3H6ClNO
solvent | dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
solvent | hydrochloric acid | Cl | ClH
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-[[2-(3-Benzyloxy-phenyl)-ethyl]-(cyclopropylmethyl)amino]-N-methyl-acetamide hydrochloride | 0.24 g, 80% yield | Cl.C(C1=CC=CC=C1)OC=1C=C(C=CC1)CCN(CC(=O)NC)CC1CC1 | InChI=1S/C22H28N2O2.ClH/c1-23-22(25)16-24(15-19-10-11-19)13-12-18-8-5-9-21(14-18)26-17-20-6-3-2-4-7-20;/h2-9,14,19H,10-13,15-17H2,1H3,(H,23,25);1H
